US08871796B2
[5-(4-Trifluoromethylphenoxy)-3-(3-{3-[(tert-butyloxycarbonyl)amino]oxetan-3-yl}phenyl)-1H-pyrazol-1-yl]acetic acid (85 mg, 0.16 mmol), dimethylamine hydrochloride (26 mg, 0.32 mmol), EDC (46 mg, 0.24 mmol), HOBT (37 mg, 0.24 mmol), and diisopropylethylamine (0.11 mL, 0.64 mmol) were combined in 0.5 mL of DMF and the mixture was stirred at ambient temperature for 18 h. The mixture was diluted with EtOAc and washed with water and brine. The organic phase was dried over MgSO4, filtered, and the solvent was removed under reduced pressure. The residue was chromatographed on a 12 g silica gel column using 0-5% MeOH:CHCl3 over 15 min at 30 mL/min. Product-containing fractions were combined and the solvents were evaporated under reduced pressure to give tert-butyl [3-(3-{5-(4-trifluoromethylphenoxy)-1-[2-(dimethylamino)-2-oxoethyl]-1H-pyrazol-3-yl}phenyl)oxetan-3-yl]carbamate as a foam. Calcd (M+1)+: 561.6. Found: 561.0

reactant | [5-(4-Trifluoromethylphenoxy)-3-(3-{3-[(tert-butyloxycarbonyl)amino]oxetan-3-yl}phenyl)-1H-pyrazol-1-yl]acetic acid | 0.16 mmol, 85 mg | FC(C1=CC=C(OC2=CC(=NN2CC(=O)O)C2=CC(=CC=C2)C2(COC2)NC(=O)OC(C)(C)C)C=C1)(F)F | C26H26F3N3O6
reactant | dimethylamine hydrochloride | 0.32 mmol, 26 mg | Cl.CNC
reactant | EDC | 0.24 mmol, 46 mg
reactant | HOBT | 0.24 mmol, 37 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 0.64 mmol, 0.11 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl [3-(3-{5-(4-trifluoromethylphenoxy)-1-[2-(dimethylamino)-2-oxoethyl]-1H-pyrazol-3-yl}phenyl)oxetan-3-yl]carbamate | FC(C1=CC=C(OC2=CC(=NN2CC(=O)N(C)C)C=2C=C(C=CC2)C2(COC2)NC(OC(C)(C)C)=O)C=C1)(F)F | C28H31F3N4O5
